US08133998B2
To a suspension of methyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate (2.69 g, 12 mmol) in CH3CN (30 mL) was added K2CO3 (2.01 g, 14.5 mmol), KI (2.0 g, 12 mmol), and N-tert-butyl-2-chloroacetamide (1.8 g, 12 mmol). The reaction mixture was refluxed overnight and quenched with H2O (150 mL). The resulting precipitate was filtered and dried to afford methyl 3-(2-(tert-butylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate, as a solid (yield: quantitative).

reactant | methyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 12 mmol, 2.69 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)OC | C9H8N2O3S
reactant | K2CO3 | 14.5 mmol, 2.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-tert-butyl-2-chloroacetamide | 12 mmol, 1.8 g | C(C)(C)(C)NC(CCl)=O | C6H12ClNO
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | methyl 3-(2-(tert-butylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | C(C)(C)(C)NC(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)OC)C)=O | C15H19N3O4S
